US06046208
a) (N-Isopropyl)-3-hydroxybenzamide
3-Hydroxybenzoic acid (0.966 g, 7.0 mmol), N-methylmorpholine (2.3 mL, 21 mmol), iso-propylamine (1.78 mL, 21 mmol) and CH2Cl2 (30 mL) were dissolved together and hydroxybenzotriazole (1.03 g, 7.7 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (1.47 g 7.7 mmol) was added; stirred 16 h, diluted with CH2Cl2 (70 mL) and the organic phase was washed with satd aq NaHCO3, H2O, 0.3 N HCl, H2O, and satd aq NaCl, dried (Na2SO4) and concentrated to afford 443 mg as a white foam. 1H NMR (CDCl3): d 7.23 (m, 3), 6.90 (m, 1), 4.22 (m, 1), 1.25 (d, 6).

reactant | 3-Hydroxybenzoic acid | 7.0 mmol, 0.966 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | N-methylmorpholine | 21 mmol, 2.3 mL | CN1CCOCC1 | C5H11NO
reactant | iso-propylamine | 21 mmol, 1.78 mL | C(C)(C)N | C3H9N
reactant | hydroxybenzotriazole | 7.7 mmol, 1.03 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 7.7 mmol, 1.47 g | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (N-Isopropyl)-3-hydroxybenzamide | C(C)(C)NC(C1=CC(=CC=C1)O)=O | C10H13NO2
